US07632839B2
Step 2: 2-isobutyl-4H-pyrido[3,4-d][1,3]oxazin-4-one (1-3)
To 3-[(3-methylbutanoyl)amino]isonicotinic acid (3.30 g, 14.84 mmol) was added acetic anhydride (20 mL, 0.78M) and the reaction was heated to 125° C. with a short path distillation head. The reaction was heated for 2 h and then cooled to room temperature. Excess acetic anhydride was then removed by vacuum distillation (20 Torr, 70° C.). The residue was cooled to room temperature and azeotroped twice with toluene to provide the title compound as a tan oil. 1H NMR (500 MHz, CDCl3) δ 1.06 (d, J=6.5 Hz, 6H), 2.31-2.35 (m, 1H), 2.61 (d, J=7 Hz, 2H), 7.96 (d, J=5 Hz, 1H), 8.78 (d, J=4.5 Hz, 1H), 9.03 (s, 1H). MS [M+H] C11H12N2O2=205.3

reactant | 3-[(3-methylbutanoyl)amino]isonicotinic acid | 14.84 mmol, 3.30 g | CC(CC(=O)NC1=C(C(=O)O)C=CN=C1)C | C11H14N2O3
solvent | acetic anhydride | 0.78M, 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-isobutyl-4H-pyrido[3,4-d][1,3]oxazin-4-one | C(C(C)C)C=1OC(C2=C(N1)C=NC=C2)=O | C11H12N2O2
